* c:\fossee\esim\library\subcircuitlibrary\54f64\54f64.cir

.include 4_and.sub
.include 3_and.sub
* u6  net-_u1-pad3_ net-_u1-pad2_ net-_u2-pad1_ d_and
x1 net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u2-pad2_ 3_and
* u5  net-_u1-pad9_ net-_u1-pad10_ net-_u4-pad1_ d_and
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u3-pad1_ d_nor
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ d_nor
* u3  net-_u3-pad1_ net-_u2-pad3_ net-_u1-pad8_ d_nor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ port
x2 net-_u1-pad13_ net-_u1-pad12_ net-_u1-pad11_ net-_u1-pad1_ net-_u4-pad2_ 4_and
a1 [net-_u1-pad3_ net-_u1-pad2_ ] net-_u2-pad1_ u6
a2 [net-_u1-pad9_ net-_u1-pad10_ ] net-_u4-pad1_ u5
a3 [net-_u4-pad1_ net-_u4-pad2_ ] net-_u3-pad1_ u4
a4 [net-_u2-pad1_ net-_u2-pad2_ ] net-_u2-pad3_ u2
a5 [net-_u3-pad1_ net-_u2-pad3_ ] net-_u1-pad8_ u3
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u4 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u2 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u3 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
