* c:\fossee\esim\library\subcircuitlibrary\ic100117\ic100117.cir

.include 3_and.sub
* u5  net-_u1-pad2_ net-_u1-pad3_ net-_u5-pad3_ d_or
* u6  net-_u1-pad24_ net-_u1-pad1_ net-_u6-pad3_ d_or
x3 net-_u5-pad3_ net-_u6-pad3_ net-_u1-pad19_ net-_u1-pad4_ 3_and
* u9  net-_u1-pad4_ net-_u1-pad5_ d_inverter
* u10  net-_u1-pad22_ net-_u1-pad23_ net-_u10-pad3_ d_or
* u2  net-_u1-pad20_ net-_u1-pad21_ net-_u2-pad3_ d_or
x1 net-_u10-pad3_ net-_u2-pad3_ net-_u1-pad17_ net-_u1-pad8_ 3_and
* u7  net-_u1-pad8_ net-_u1-pad9_ d_inverter
* u3  net-_u1-pad12_ net-_u1-pad13_ net-_u3-pad3_ d_or
* u4  net-_u1-pad14_ net-_u1-pad15_ net-_u4-pad3_ d_or
x2 net-_u3-pad3_ net-_u4-pad3_ net-_u1-pad16_ net-_u1-pad11_ 3_and
* u8  net-_u1-pad11_ net-_u1-pad10_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ port
a1 [net-_u1-pad2_ net-_u1-pad3_ ] net-_u5-pad3_ u5
a2 [net-_u1-pad24_ net-_u1-pad1_ ] net-_u6-pad3_ u6
a3 net-_u1-pad4_ net-_u1-pad5_ u9
a4 [net-_u1-pad22_ net-_u1-pad23_ ] net-_u10-pad3_ u10
a5 [net-_u1-pad20_ net-_u1-pad21_ ] net-_u2-pad3_ u2
a6 net-_u1-pad8_ net-_u1-pad9_ u7
a7 [net-_u1-pad12_ net-_u1-pad13_ ] net-_u3-pad3_ u3
a8 [net-_u1-pad14_ net-_u1-pad15_ ] net-_u4-pad3_ u4
a9 net-_u1-pad11_ net-_u1-pad10_ u8
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u2 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u3 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u4 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 250e-03 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
